US05318966
1.0 g (0.00268 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2-piperidinoethyl)-1H-benzo[e]indol-6-ol dihydrochloride was dissolved in a dilute aqueous NaOH solution and extracted with ethyl acetate. The organic phase was washed with water, dried over Na2SO4, filtered and concentrated. The residue was dissolved in 40 ml of toluene, whereupon 0.28 g (0.39 ml, 0.0279 mol) of triethylamine and 35 mg (0.28 mmol, 0.1 eq.) of 4-dimethylaminopyridine were added in succession and then 0.26 ml (0.0279 mol) of dimethyl chloroformamide was added dropwise. The mixture was boiled under reflux for 2 hours, then cooled, poured into water and extracted with toluene. The organic phase was washed with water, dried with Na2SO4, filtered and concentrated. By chromatography of the residue over silica gel with ethyl acetate/ethanol 1:1 there was obtained 0.82 g (82%) of oily rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2-piperidinoethyl)-1H-benzo[e]indol-6-yl dimethylcarbamate.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2-piperidinoethyl)-1H-benzo[e]indol-6-ol dihydrochloride | 0.00268 mol, 1.0 g | Cl.Cl.N1(CCCCC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O
reactant | triethylamine | 0.0279 mol, 0.39 ml, 0.28 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl chloroformamide | 0.0279 mol, 0.26 ml | CC(=O)N(Cl)C | C3H6ClNO
reactant | water | O | H2O
solvent | NaOH | [OH-].[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 0.28 mmol, 35 mg, 0.1 eq. | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2-piperidinoethyl)-1H-benzo[e]indol-6-yl dimethylcarbamate | 0.82 g, 82% | CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCN2CCCCC2)=O)C | C22H33N3O2
